US05399580
(±)-(1R*,2S*,3S*,5S*)-5-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol
(±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (600 mg, 1.15 mmol) was added to a stirred mixture of sodium carbonate (122 mg) in water (2 mL)-ethanol (10 mL)-methanol (10 mL). After 2.5 hours at ambient temperature, the pH was adjusted to 7 with glacial acetic acid. Volatiles were removed in vacuo and the residue triturated with water (5 mL) and filtered to give white solid. Recrystallization of the solid from 1:1 ethanol-methanol gave title compound as a white powder (282 mg, 62%), m.p. 208°-211° C.; 1H-NMR (DMSO-d6) δ: 8.23, (s, 1, benzimidazole H7), 7.95 (s, benzimidazole H4), 5.13 (t, J=4.1 Hz, 1, CH2OH), 5.03 (d, J=6.2 Hz, 1, OH), 5.0-4.85 (m, 1, H5), 4.71 (d, J=3.5 Hz, 1, OH), 4.55-4.45 (m, 1, H1), 3.85-3.80 (m, 1, H2), 3.7-3.6 and 3.55-3.45 (both m, 1 each, OCH2), 2.2-1.95 (m, 3, H3 and H4); mass spectrum (CI): 395 (M+1).

reactant | (±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 1.15 mmol, 600 mg | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)COC(C)=O)OC(C)=O | C19H19BrCl2N2O6
reactant | sodium carbonate | 122 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (±)-(1R*,2S*,3S*,5S*)-5-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 282 mg, 62% | BrC1=NC2=C(N1[C@H]1C[C@H]([C@@H]([C@@H]1O)O)CO)C=C(C(=C2)Cl)Cl | C13H13BrCl2N2O3
